US07217724B2
3-Iodo-7-methoxy-1H-indazole
To a solution of 7-methoxy-1H-indazole (2.60 g, 17.5 mmol) in N,N-dimethylformamide (50 mL) are added iodine (6.68 g, 26.3 mmol) and potassium hydroxide (2.79 g, 49.7 mmol), and the mixture is stirred at room temperature for 0.5 hour. The reaction solution is poured into a 10% aqueous sodium hydrogen sulfite solution (200 mL), and the mixture is extracted with diethyl ether. The organic layer is washed with water and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure, and the obtained residue is purified by silica gel column chromato-graphy (n-hexane/ethyl acetate=5/1) to give the title compound (3.97 g, yield: 83%).

reactant | 7-methoxy-1H-indazole | 17.5 mmol, 2.60 g | COC=1C=CC=C2C=NNC12 | C8H8N2O
reactant | iodine | 26.3 mmol, 6.68 g | II | I2
reactant | potassium hydroxide | 49.7 mmol, 2.79 g | [OH-].[K+]
reactant | sodium hydrogen sulfite | 200 mL | S(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Iodo-7-methoxy-1H-indazole | 3.97 g, yield: 83% | IC1=NNC2=C(C=CC=C12)OC | C8H7IN2O
